### PR TITLE
[Merged by Bors] - feat(Module/Projective): direct sum of projective modules is projective

### PR DESCRIPTION
**Pull request by vlad902**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Projective.lean [hunk 1]
```diff
@@ -287,4 +289,37 @@ theorem Projective.of_lifting_property {R : Type u} [Ring R] {P : Type v} [AddCo
 
 end OfLiftingProperty
 
+section DirectSum
+
+variable {R : Type u} [Semiring R] {ι : Type v} {M : ι → Type w} [(i : ι) → AddCommMonoid (M i)]
+    [(i : ι) → Module R (M i)]
+
+theorem directSum_iff : Module.Projective R (⨁ i, M i) ↔ ∀ (i : ι), Module.Projective R (M i) := by
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Projective.lean]:
```suggestion
theorem Projective.directSum_iff : Projective R (⨁ i, M i) ↔ ∀ (i : ι), Projective R (M i) := by
```

File: Mathlib/Algebra/Module/Projective.lean [hunk 2]
```diff
@@ -287,4 +289,37 @@ theorem Projective.of_lifting_property {R : Type u} [Ring R] {P : Type v} [AddCo
...
+  · intro H
+    refine Projective.iff_split.mpr ?_
+    have := fun i ↦ Projective.iff_split'.{max u v w}.mp (H i)
+    choose T I₁ I₂ I₃ f g hfg using this
+    refine ⟨⨁ i, T i, inferInstance, inferInstance, inferInstance, ?_⟩
+    use DirectSum.toModule _ _ _ fun i ↦ (DirectSum.lof ..).comp (f i)
+    use DirectSum.toModule _ _ _ fun i ↦ (DirectSum.lof ..).comp (g i)
+    ext x
+    have := LinearMap.ext_iff.mp (hfg x)
+    simp at this
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Projective.lean]:
```suggestion
    have := by simpa using LinearMap.ext_iff.mp (hfg x)
```

File: Mathlib/Algebra/Module/Projective.lean [hunk 3]
```diff
@@ -287,4 +289,37 @@ theorem Projective.of_lifting_property {R : Type u} [Ring R] {P : Type v} [AddCo
...
+  classical
+  constructor
+  · intro H i
+    refine Projective.iff_split'.{max u v w} |>.mpr ?_
+    obtain ⟨T, I₁, I₂, I₃, f, g, hfg⟩ := Projective.iff_split.mp H
+    refine ⟨T, I₁, I₂, I₃, f.comp (DirectSum.lof ..), (DirectSum.component ..).comp g, ?_⟩
+    rw [LinearMap.ext_iff] at hfg
+    ext
+    simp at hfg
+    simp [hfg]
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Projective.lean]: If you add these two lemmas in `Mathlib.Algebra.DirectSum.Module`
```lean4
lemma DirectSum.component_comp_lof (R : Type*) [Semiring R] (ι : Type*)
    [DecidableEq ι] (M : ι → Type*) [(i : ι) → AddCommMonoid (M i)]
    [(i : ι) → Module R (M i)] (i j : ι) :
    component R ι M i ∘ₗ lof R ι M j = if h : j = i then h ▸ .id else 0 := by
  aesop (add simp component.of)

@[simp] lemma DirectSum.component_comp_lof_same (R : Type*) [Semiring R] (ι : Type*)
    [DecidableEq ι] (M : ι → Type*) [(i : ι) → AddCommMonoid (M i)]
    [(i : ι) → Module R (M i)] (i : ι) :
    component R ι M i ∘ₗ lof R ι M i = .id := by simp [component_comp_lof]
```
then this can be
```suggestion
    simp [← comp_assoc _ f, comp_assoc _ g, hfg]
```

File: Mathlib/Algebra/Module/Projective.lean [hunk 4]
```diff
@@ -287,4 +289,37 @@ theorem Projective.of_lifting_property {R : Type u} [Ring R] {P : Type v} [AddCo
...
 end OfLiftingProperty
 
+section DirectSum
+
+variable {R : Type u} [Semiring R] {ι : Type v} {M : ι → Type w} [(i : ι) → AddCommMonoid (M i)]
+    [(i : ι) → Module R (M i)]
+
+theorem directSum_iff : Module.Projective R (⨁ i, M i) ↔ ∀ (i : ι), Module.Projective R (M i) := by
+  classical
+  constructor
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Projective.lean]: instead of doing intros
```suggestion
  refine ⟨fun H i ↦ ?_, fun H ↦ ?_⟩
```

File: Mathlib/Algebra/Module/Projective.lean (hunk 3 above)
Comment (vlad902) [reply Mathlib/Algebra/Module/Projective.lean]: Thanks!

File: Mathlib/Algebra/Module/Projective.lean [hunk 5]
```diff
@@ -287,4 +289,31 @@ theorem Projective.of_lifting_property {R : Type u} [Ring R] {P : Type v} [AddCo
...
+    simp [← comp_assoc _ f, comp_assoc _ g, hfg]
+  · refine iff_split.mpr ?_
+    have := fun i ↦ iff_split'.{max u v w}.mp (H i)
+    choose T I₁ I₂ I₃ f g hfg using this
+    refine ⟨⨁ i, T i, inferInstance, inferInstance, inferInstance, ?_⟩
+    use DirectSum.toModule _ _ _ fun i ↦ (DirectSum.lof ..).comp (f i)
+    use DirectSum.toModule _ _ _ fun i ↦ (DirectSum.lof ..).comp (g i)
+    ext x
+    have := by simpa using LinearMap.ext_iff.mp (hfg x)
+    simp [this]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/Projective.lean]:
```suggestion
  · exact (inferInstance : (Projective R <| Π₀ i, M i))
```

The instance that was meant in the TODO in #38967 was the one on `Π₀ i, M i`, which is the direct sum by an other name.

An other maybe slightly more principled version could be 
```suggestion
  · let e : (⨁ i, M i) ≃ₗ[R] Π₀ i, M i := .refl ..
    exact Projective.of_equiv' e.symm
```
so that if the defeq is changed, one just have to replace `e` with the corresponding equivalence that whoever breaking the defeq will have to provide as API.

File: Mathlib/Algebra/Module/Projective.lean [hunk 6]
```diff
@@ -287,4 +289,31 @@ theorem Projective.of_lifting_property {R : Type u} [Ring R] {P : Type v} [AddCo
...
+variable {R : Type u} [Semiring R]
+variable {ι : Type v} {M : ι → Type w} [(i : ι) → AddCommMonoid (M i)] [(i : ι) → Module R (M i)]
+
+theorem Projective.directSum_iff : Projective R (⨁ i, M i) ↔ ∀ (i : ι), Projective R (M i) := by
+  classical
+  refine ⟨fun H i ↦ ?_, fun H ↦ ?_⟩
+  · refine iff_split'.{max u v w} |>.mpr ?_
+    obtain ⟨T, I₁, I₂, I₃, f, g, hfg⟩ := iff_split.mp H
+    refine ⟨T, I₁, I₂, I₃, f.comp (DirectSum.lof ..), (DirectSum.component ..).comp g, ?_⟩
+    simp [← comp_assoc _ f, comp_assoc _ g, hfg]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/Projective.lean]:
```suggestion
  · exact .of_split (DirectSum.lof ..) (DirectSum.component ..) (by simp)
```
The "canonical" proof of this fact is usually that `M i` is a retract (= direct summand) of `⨁ i, M i` and that retracts of projectives are projectives.

File: Mathlib/Algebra/Module/Projective.lean [hunk 7]
```diff
@@ -59,6 +60,7 @@ projective module
 universe w v u
 
 open LinearMap hiding id
+open DirectSum hiding id id_apply
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/Projective.lean]: note but not for this PR: this might mean there is a missing `protected` on `DirectSum.id` and `DirectSum.id_apply`.

File: Mathlib/Algebra/Module/Projective.lean (hunk 5 above)
Comment (themathqueen) [reply Mathlib/Algebra/Module/Projective.lean]: the latter is probably better

Comment (vlad902) [reply Mathlib/Algebra/Module/Projective.lean]: Ah, I had not thought to look under the definition of DirectSum though now it seems obvious. Thanks!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by kbuzzard** [comment]
Thanks!

bors merge
